US05514643
3.6g of methyl thiourea and 7.9g of ethyl 2-chloroacetoacetate were added to 100ml of 1,2-dichloroethane and the mixture was stirred under reflux for 10 hours. After removing the solvent under reduced pressure, 10% aqueous sodium hydroxide solution was added thereto to recrystallize the resulting product which was then filtered to obtain 7.8g (Yield 96%) of ethyl 2-methylamino-4-methyl-thiazole-5-carboxylate as a pale yellow solid. The obtained solid product was dissolved in 60ml of a mixed solvent of methanol-distilled water (v/v=3/1) containing 1.8g of sodium hydroxide. The reaction mixture was stirred under reflux for 8 hours, evaporated under reduced pressure to remove methanol and then adjusted to pH 2 to 3 by adding 10% aqueous hydrochloric acid solution to precipitate the white solid. The precipitated solid product was filtered, washed with water and diethylether and then dried to obtain 6.0g (Yield 90%) of the title compound as a white solid.

reactant | methyl thiourea | 3.6g | CNC(=S)N | C2H6N2S
reactant | ethyl 2-chloroacetoacetate | 7.9g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | 1,2-dichloroethane | 100ml | ClCCCl | C2H4Cl2
product | ethyl 2-methylamino-4-methyl-thiazole-5-carboxylate | 7.8g, Yield 96% | CNC=1SC(=C(N1)C)C(=O)OCC | C8H12N2O2S
